US07153997B2
Methyl[3,5-dibromo-4-(5-isopropyl-4-methoxy-3-nitrophenoxy)phenyl]acetate (1.1 g, 2.12 mmol) was dissolved in ethanol (50 mL) and sodium hydrosulfite (1.85 g, 10.6 mmol) was added. The reaction mixture was heated at reflux for 48 hours. The reaction monitored by TLC (65:35 n-heptane: EtOAc) and when complete, diluted with ethyl acetate and washed with water and brine. The organic layer was dried over MgSO4 and concentrated. The residue was purified on column (silica gel, n-heptane/EtOAc 1:1) to yield methyl[3,5-dibromo-4-(3-amino-5-isopropyl-4-methoxyphenoxy)phenyl]acetate (457 mg, 44%).

reactant | Methyl[3,5-dibromo-4-(5-isopropyl-4-methoxy-3-nitrophenoxy)phenyl]acetate | 2.12 mmol, 1.1 g | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)OC)[N+](=O)[O-])Br)=O | C19H19Br2NO6
reactant | sodium hydrosulfite | 10.6 mmol, 1.85 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | n-heptane | CCCCCCC | C7H16
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl[3,5-dibromo-4-(3-amino-5-isopropyl-4-methoxyphenoxy)phenyl]acetate | 457 mg, 44% | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)OC)N)Br)=O | C19H21Br2NO4
